US08222424B2
2-Chloro-5-(4-methoxy-benzoyl)-benzenesulfonamide
Under nitrogen, aluminum chloride (1.95 g, 14.6 mmol) is slurried in dichloromethane (50 mL) then 4-chloro-3-sulfamoyl benzoyl chloride is added and allowed to stir at ambient temperature for 30 minutes. Anisole (683 mg, 6.3 mmol) is added in 2 mL methylene chloride. The reaction is allowed to stir at ambient temperature for 18 hours. The reaction mixture is poured over ice-cold 6 N HCl and extracted with dichloromethane to give a colorless oil. Purification by silica gel chromatography (gradient of ethyl acetate in hexanes 5-25%) yielded a white foam which is crystallized three times from ether to afford the title compound. 1H NMR (MeOD) δ 3.9 (s, 3H), 7.1 (d, 2H, J=8.84 Hz), 7.7-8.0 (m, 4H), 8.4 (d, 1H, J=1.96 Hz). MS (m/z): 326 (M+1). CHN Calc C, 51.62; H, 3.71; N, 4.3. Found C, 51.70; H, 3.76; N 4.22. M.P. 156-158° C.

reactant | aluminum chloride | 14.6 mmol, 1.95 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chloro-3-sulfamoyl benzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | Anisole | 6.3 mmol, 683 mg | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-5-(4-methoxy-benzoyl)-benzenesulfonamide | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)OC)=O)S(=O)(=O)N | C14H12ClNO4S
